US07915424B2
5-Phenylethynyl-nicotinic acid methyl ester
Add trimethylsilyl diazomethane (2.25 g, 19.7 mmol) to a cooled suspension of 5-phenylethynyl-nicotinic acid (2.0 g, 8.9 mmol) in 4:1 diethyl ether: methanol (30 mL) at 0° C. Warm to room temperature, stir for 2 h and concentrate. Purify the residue by silica gel chromatography, eluting with 0:100 to 50:50 ethyl acetate:hexanes, to give the title compound as a white solid (1.8 g, 85%).

reactant | trimethylsilyl diazomethane | 19.7 mmol, 2.25 g | C[Si](C)(C)C=[N+]=[N-] | C4H10N2Si
reactant | 5-phenylethynyl-nicotinic acid | 8.9 mmol, 2.0 g | C1(=CC=CC=C1)C#CC=1C=NC=C(C(=O)O)C1 | C14H9NO2
reactant | diethyl ether | C(C)OCC | C4H10O
solvent | methanol | 30 mL | CO | CH4O
product | 5-Phenylethynyl-nicotinic acid methyl ester | 1.8 g, 85% | COC(C1=CN=CC(=C1)C#CC1=CC=CC=C1)=O | C15H11NO2
